US06995268B2
4-[2-((Diphenylmethyl)amino)ethyl]-1-[(3,4-difluorophenyl)methyl]piperidine
To the solution of 4-[2-diphenylmethyl)aminocarbonyl]methyl-1-[(3,4-difluorophenyl)methyl]piperidine (0.12 g, 0.28 mmol) in dry THF 20 ml was added 1M BH3/THF (1.0 ml). The reaction solution was refluxed for 6 hours. After the solution was cooled to room temperature, MeOH (5 ml) was added slowly. The solvent was removed under reduced pressure. 10% HCl/MeOH (10 ml) was added into the residue and the solution was refluxed for 1 hour. Solid NaHCO3 was added after MeOH was evaporated. The mixture was extracted with EtOAc. The combined organic phase was dried over Na2SO4 and evaporated to give the crude product, which was purified by chromatography (Hexane/EtOAc/Et3N=1/2/1%) to a white solid, 0.11 g (90% yield) (“Procedure E”). 1H NMR (CD3Cl) δ 7.39-6.99 (13H, m, Ar—H), 4.79 (1H, s, Ph2CH), 3.39 (2H, s, F2PhCH2), 2.80-2.76 (2H, d, J=11.1 Hz, N(CH)2), 2.60-2.55 (2H, t, J=7.0 Hz, NCH2), 1.93-1.86 (2H, t, J=11.1 Hz, N(CH)2), 1.62-1.58 (2H, d, J=12 Hz), 1.49-1.42 (2H, q, J=6.3 Hz, NCH2CH2), 1.35-1.31 (1H, m, NCH2CH2CH(CH2)2), 1.26-1.19 (2H, t, J=12.0 Hz). The free base was converted into its HCl salt, m.p.=280-281° C. Anal: (C27H30N2F2.2HCl.0.25H2O) Calculated: C, 65.12; H, 6.85; N, 5.62; Found: C, 65.13; H, 6.80, N, 5.28.

reactant | methyl-1-[(3,4-difluorophenyl)methyl]piperidine | 0.28 mmol, 0.12 g | CC1N(CCCC1)CC1=CC(=C(C=C1)F)F | C13H17F2N
reactant | BH3/THF | 1M, 1.0 ml | B.C1CCOC1
reactant | MeOH | 5 ml | CO | CH4O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 4-[2-((Diphenylmethyl)amino)ethyl]-1-[(3,4-difluorophenyl)methyl]piperidine | 90% yield | C1(=CC=CC=C1)C(C1=CC=CC=C1)NCCC1CCN(CC1)CC1=CC(=C(C=C1)F)F | C27H30F2N2
